US09034882B2
To a solution of (S)-methyl 2-(2-(3-bromophenyl)-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate (50 mg, 0.107 mmol, 1 equiv) in DMF (0.54 mL) was added 8-azabicyclo[3.2.1]octane hydrochloride (31 mg, 0.214 mmol, 2 equiv) and DIPEA (0.075 mL, 0.428 mmol, 4 equiv). The resulting solution was stirred at 85° C. for 18 h. Complete conversion to pyrimidyl amine was observed. To this solution was then added phenyl boronic acid (30 mg, 0.250 mmol, 2.5 equiv), potassium phosphate, tribasic (0.25 mL of a 2 M aqueous solution, 0.500 mmol, 4.7 equiv), and PdCl2(dppf).CH2Cl2 adduct (8 mg, 0.010 mmol, 0.09 equiv). The mixture was heated at 85° C. for 2 h. Upon completion of the Suzuki reaction, the reaction temperature was lowered to 60° C. Methanol (1 mL), water (0.3 mL), and LiOH.H2O (24 mg, 1.00 mmol, 9 equiv) added and heating was continued for 2 h. Upon completion of hydrolysis, reaction was removed from heat and filtered through a syringe filter. The crude reaction mixture was purified via preparative LC/MS with the following conditions: Column. Waters XBridge C18, 19×200 mm, 5-μμm particles Mobile Phase A: water with 20-mM ammonium acetate; Mobile Phase B: 95:5 acetonitrile:water with 20-mM ammonium acetate; Gradient: 40-80% B over 20 minutes, then a 5-minute hold at 100% B, to provide (S)-2-(2-([1,1′-biphenyl]-3-yl)-7-((1R,5 S)-8-azabicyclo[3.2.1]octan-8-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetic acid (8.9 mg, 17% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.23 (s, 1H), 7.97 (d, J=8.2 Hz, 1H), 7.74 (d, J=7.3 Hz, 2H), 7.69 (d, J=7.6 Hz, 1H), 7.61-7.55 (m, 1H), 7.51 (t, J=7.2 Hz, 2H), 7.44-7.38 (m, 1H), 7.00 (s, 1H), 5.45 (br. s., 1H), 5.15 (br. s., 1H), 4.37 (br. s., 1H), 2.86 (br. s., 1H), 2.46 (s, 3H), 2.29 (br. s., 1H), 1.92 (d, J=13.7 Hz, 3H), 1.78 (d, J=12.8 Hz, 2H), 1.69 (d, J=14.0 Hz, 3H), 1.14 (s, 9H). LCMS (ESI, M+1): 525.4.

reactant | (S)-methyl 2-(2-(3-bromophenyl)-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate | 0.107 mmol, 50 mg, 1 equiv | BrC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2Cl)[C@@H](C(=O)OC)OC(C)(C)C)C)=C1 | C20H21BrClN3O3
reactant | 8-azabicyclo[3.2.1]octane hydrochloride | 0.214 mmol, 31 mg, 2 equiv | Cl.C12CCCC(CC1)N2
reactant | DIPEA | 0.428 mmol, 0.075 mL, 4 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrimidyl amine | N1=C(N=CC=C1)N | C4H5N3
reactant | phenyl boronic acid | 0.250 mmol, 30 mg, 2.5 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.010 mmol, 8 mg, 0.09 equiv | C(Cl)Cl | CH2Cl2
reactant | LiOH.H2O | 1.00 mmol, 24 mg, 9 equiv | O[Li].O
solvent | DMF | 0.54 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.3 mL | O | H2O
solvent | Methanol | 1 mL | CO | CH4O
product | (S)-2-(2-([1,1′-biphenyl]-3-yl)-7-((1R,5 S)-8-azabicyclo[3.2.1]octan-8-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetic acid | 8.9 mg, 17% yield | C1(=CC(=CC=C1)C1=NN2C(N=C(C(=C2N2[C@@H]3CCC[C@H]2CC3)[C@@H](C(=O)O)OC(C)(C)C)C)=C1)C1=CC=CC=C1 | C32H36N4O3
